US06573397B2
As a conventional process for producing 3,4-dihydroxybenzonitrile from 3,4-methylenedioxybenzonitrile, for example, J. Org. Chem., 62, 4097 (1977) discloses a process in which 3,4-methylenedioxybenzonitrile is reacted with lithium diisopropylamide in an excess molar amount (five times by mole or more) in a reaction medium consisting of 1,3-dimethyl-2-imidazolidinone at a high temperature of 185° C., to produce 3,4-dihydroxybenzonitrile with a yield of 94%. This process is, however, disadvantageous as an industrial process in that lithium diisopropylamide, which has a high ignition property, must be employed, and the reaction conditions are very severe and a complicated after-treatment is necessary.

reactant | 3,4-methylenedioxybenzonitrile | C1OC=2C=C(C#N)C=CC2O1 | C8H5NO2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1,3-dimethyl-2-imidazolidinone | CN1C(N(CC1)C)=O | C5H10N2O
product | 3,4-dihydroxybenzonitrile | yield of 94% | OC=1C=C(C#N)C=CC1O | C7H5NO2
